US04186135
200 ml of chloroform and 37.5 g of adamantamine were introduced into a balloon flask provided with an agitator and a thermometer, and then 50 g of 1,4-benzodioxane-5-carbonyl chloride was added in portions at a temperature of from 5°-10° C. After agitation at abmient temperature 1500 ml of water was added and then chloroform was removed under vacuum. The base which was precipitated by ammonia was extracted by means of methylene chloride. After removal of the solvent the residue was dissolved in hydrochloric ethanol. The crystals formed by cooling were dried off, washed and then dried. 20 g of N-(1-adamantyl)-1,4-benzodioxane-5-carboxamide was produced (M.P.: 137° C.; yield: 25%).

reactant | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
reactant | adamantamine | 37.5 g | C1C2CC3CC1CC(C2)(C3)N | C10H17N
reactant | 1,4-benzodioxane-5-carbonyl chloride | 50 g | O1CCOC2=C1C=CC=C2C(=O)Cl | C9H7ClO3
solvent | water | 1500 ml | O | H2O
product | N-(1-adamantyl)-1,4-benzodioxane-5-carboxamide | 20 g, yield: 25% | C12(CC3CC(CC(C1)C3)C2)NC(=O)C2=CC=CC=3OCCOC32 | C19H23NO3
